US04332808
500 ml of ammonia and then 1.5 g of sodium were progressively added at -40° C. to a solution of 14.8 g of 1-benzyl-3-[1-benzyl-1H-indol-4-yl]-3-piperidinol in 250 ml of tetrahydrofuran and after the addition was complete, ammonium chloride was added to the mixture until the faint blue coloration disappeared. The residue was taken up in water and the aqueous phase was extracted with ethyl acetate. The organic phase was washed with water, dried and evaporated to dryness to obtain 12 g of 1-benzyl-3-(1H-indol-4-yl)-3-piperidinol.

reactant | ammonia | 500 ml | N | H3N
reactant | sodium | 1.5 g | [Na] | Na
reactant | 1-benzyl-3-[1-benzyl-1H-indol-4-yl]-3-piperidinol | 14.8 g | C(C1=CC=CC=C1)N1CC(CCC1)(O)C1=C2C=CN(C2=CC=C1)CC1=CC=CC=C1 | C27H28N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-benzyl-3-(1H-indol-4-yl)-3-piperidinol | 12 g | C(C1=CC=CC=C1)N1CC(CCC1)(O)C1=C2C=CNC2=CC=C1 | C20H22N2O
